US06320050B1
A solution of 2-[4-(butane-1-sulfonyl)-phenyl]-3-cyclopentyl-propionic acid ethyl ester (140 mg, 0.38 mmol in tetrahydrofuran/water/methanol (0.95 mL, 3:1:1) was treated with a 1N aqueous lithium hydroxide solution (0.76 mL, 0.76 mmol). The reaction was stirred at 25° C. for 8 h. At this time, the reaction was acidified to pH=1 with a 1N aqueous hydrochloric acid solution and extracted with chloroform (3×50 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 90/10 chloroform/methanol) afforded 2-[4-(butane- 1-sulfonyl)-phenyl]-3-cyclopentyl-propionic acid (88.3 mg, 68.4%) as a clear oil: FAB-HRMS m/e calcd for C18H26O4S (M+H)+339.1631 found 339.1638.

reactant | 2-[4-(butane-1-sulfonyl)-phenyl]-3-cyclopentyl-propionic acid ethyl ester | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)CCCC)=O | C20H30O4S
reactant | lithium hydroxide | 0.76 mmol, 1N, 0.76 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran water methanol | 0.95 mL | O1CCCC1.O.CO
product | 2-[4-(butane- 1-sulfonyl)-phenyl]-3-cyclopentyl-propionic acid | 88.3 mg, 68.4% | C(CCC)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)CC1CCCC1 | C18H26O4S
